Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / iodinated IV dye / fenofibrate / Sulfa 
(Sulfonamide Antibiotics) / contrast dye / shellfish derived / 
cyclobenzaprine / vancomycin
 
Attending: ___
 
Chief Complaint:
left lower extremity redness and swelling

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a h/o EtOH cirrhosis c/b
esophageal varices, undergoing serial band ligation, who
presented for outpatient EGD /colon today, referred to ED for 
LLE
wounds.

EGD /colon was performed ___ without complications. 3 bands 
were
placed. 2 colonic polyps removed. Also noted to have rectal
varix.  While there, pt was noted to have LLE wound c/f 
recurrent
cellulitis (h/o MRSA cellulitis in past) with worsening erythema
x 4 days, pain, and drainage from punctate ulcers.  He says he
has had recurrent skin ulcerations and lesions for years.

He reports an injury one month ago where he injured the right
side of his chest after reaching out with an outstretched arm to
grab something.  After 2 weeks of right chest wall pain, he was
evaluated at ___ locally, where he says X-Ray and
CT were normal, was diagnosed with a "sprain."  He has had the
same level of pain since then.  He is taking Percocet.  It is
worth with movement, and located in the right lower chest and
right upper quadrant.

He denies fever, chills, chest pain, diarrhea, constipation,
dysuria, hematuria, wheezing.  He reports chronic headache.

In the ED, initial VS were: 98.7, HR 75, BP 118/60, RR 18, 96% 
RA

- He was given 1g IV Vanco, Omeprazole, Sucralfate, and home 
meds
- RUQUS showed no ascites

On arrival to the floor, patient reports above story, no new
complaints.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
- EtOH Cirrhosis
- CAD
- HTN
- Seizures
- COPD
- Cataracts
- H/o malignant colon polyps
- DMT2
- BPH
- Anxiety, depression.
- Migraines
- HLD

 
Social History:
___
Family History:
He has multiple family members with alcoholism.  His brother is 
alcoholic.  His another brother died from alcoholic cirrhosis.  
He has siblings who live in ___ in ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS: T 100.2, BP 122 / 64, HR 72, RR 18, 94% RA 
GENERAL: NAD, chronically ill appearing, resting in bed. 
Significant right chest wall pain with movement of that area.
HEENT: AT/NC, sclera mildly icteric, MMM
NECK: supple
CV: RRR
PULM: CTAB, no wheezes
GI: abdomen soft, nondistended.  Mild TTP in RUQ, not rigid.
EXTREMITIES: 1+ ___ edema bilat
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, no asterixis
DERM: LLE with warmth and erythema about ___ of the way up the
leg, scattered pustules. Demarcated the area with a pen.  He 
also
has multiple punctate ulcerations throughout his body surface.

DISCHARGE PHYSICAL EXAM:
=========================
VS:
24 HR Data (last updated ___ @ 1422)
    Temp: 99.3 (Tm 99.3), BP: 132/66 (106-134/61-68), HR: 59 
(53-59), RR: 18 (___), O2 sat: 94% (92-96), O2 delivery: Ra, 
Wt: 220.68 lb/100.1 kg  
GENERAL: No acute distress. Breathing comfortably on RA.
HEENT: AT/NC, sclera mildly icteric. Moist mucus membranes, JVP
~9 cm. 
Heart: RRR, normal S1 and S2
Lungs: soft crackles RLL otherwise clear
Abdomen: abdomen soft, nontender to palpation, mildly distended.
Normal bowel sounds
EXTREMITIES: trace to 1+ ___ edema bilat otherwise warm and
symmetric without erythema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, no asterixis

 
Pertinent Results:
ADMISSION / PERTINENT LABS:
==============================

___ 07:58PM BLOOD WBC-10.9* RBC-4.32* Hgb-14.0 Hct-41.3 
MCV-96 MCH-32.4* MCHC-33.9 RDW-11.6 RDWSD-40.7 Plt Ct-85*
___ 07:58PM BLOOD Neuts-69.6 Lymphs-15.4* Monos-11.5 
Eos-2.5 Baso-0.6 Im ___ AbsNeut-7.58* AbsLymp-1.68 
AbsMono-1.25* AbsEos-0.27 AbsBaso-0.06
___ 07:58PM BLOOD ___ PTT-30.1 ___
___ 07:58PM BLOOD Glucose-171* UreaN-17 Creat-1.3* Na-135 
K-4.7 Cl-101 HCO3-20* AnGap-14
___ 07:58PM BLOOD ALT-21 AST-32 AlkPhos-79 TotBili-3.8* 
DirBili-1.0* IndBili-2.8
___ 07:58PM BLOOD Lipase-19
___ 02:44AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:58PM BLOOD Albumin-3.6 Calcium-9.4 Phos-2.4* Mg-1.6
___ 01:05PM BLOOD Osmolal-290
___ 08:15PM BLOOD Lactate-2.2*

DISCHARGE LABS:
=====================
___ 06:15AM BLOOD WBC-5.9 RBC-3.56* Hgb-11.6* Hct-34.6* 
MCV-97 MCH-32.6* MCHC-33.5 RDW-12.9 RDWSD-45.1 Plt ___
___ 06:15AM BLOOD Glucose-216* UreaN-31* Creat-1.5* Na-138 
K-5.0 Cl-102 HCO3-23 AnGap-13
___ 06:20AM BLOOD ALT-13 AST-24 LD(LDH)-199 AlkPhos-95 
TotBili-1.3
___ 06:15AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.2

MICROBIOLOGY:
==================
___ 11:25 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

___ 10:49 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 

URINE STUDIES:
================
___ 10:57PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:57PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-150* Ketone-TR* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:57PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 02:22PM URINE Hours-RANDOM UreaN-627 Creat-131 Na-33 
Cl-<20
___ 01:48PM URINE Hours-RANDOM UreaN-517 Creat-95 Na-<20 
TotProt-23 Prot/Cr-0.2
___ 01:48PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:48PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

IMAGING:
=============
___ Imaging LIVER OR GALLBLADDER US 
IMPRESSION:  
Patent main portal vein in the portal venous system with 
appropriate direction of flow.  Main portal is patent, but 
appears to demonstrate slow flow, unclear whether this is 
technical or real.   
Splenomegaly.  
No ascites. 

___ Imaging CHEST (PA & LAT) 
FINDINGS:  
There is mild pulmonary vascular congestion.  No focal 
consolidation is seen.  There is no pleural effusion or 
pneumothorax.  Cardiac and mediastinal silhouettes are stable.  
IMPRESSION:  
Mild pulmonary vascular congestion. 

___HEST W/O CONTRAST
FINDINGS:  
BASE OF NECK: Partially visualized thyroid is within normal 
limits 
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar adenopathy.  
HEART AND VASCULATURE:  The heart is normal size.  No 
pericardial effusion.  Mild coronary artery disease.  Mild 
calcifications of the aortic valve.  Mild atherosclerotic 
calcifications of the thoracic aorta. 
PLEURAL SPACES: No pleural effusion or pneumothorax. 
LUNGS/AIRWAYS: Mild dependent atelectasis.  Mildly more 
confluent 
consolidative change at the right greater than left lung base 
may represent developing pneumonia versus atelectasis.  The 
airways are centrally patent.  
ABDOMEN:  Mildly nodular liver contour consistent with history 
of cirrhosis.  Mild perihepatic ascitic fluid.  Splenomegaly 
with the spleen measuring 15.9 cm.  Small hiatal hernia.  
Cholelithiasis. 
BONES: No rib fractures.  No acute osseous process. 
IMPRESSION: 
1. No evidence of rib fractures. 
2. Mildly more confluent consolidative change at the right 
greater than left lung base are most consistent with 
atelectasis.. 
3. Finding secondary to known cirrhosis. 

___ Imaging CHEST (PORTABLE AP) 
IMPRESSION:  
Increased consolidation of the right lung base concerning for 
pneumonia.  Mild pulmonary edema. 
 
___ Imaging CHEST (PA & LAT) 
IMPRESSION:  
Comparison to ___.  The patient has developed mild to 
moderate 
pulmonary edema.  In addition, there is a new parenchymal 
opacity at the right lung bases, with a location highly 
suggestive of aspiration.  No pleural effusions.  Stable 
borderline size of the cardiac silhouette. 

 
Brief Hospital Course:
Information for Outpatient Providers: ___ man with a h/o EtOH 
cirrhosis c/b esophageal varices, undergoing serial band 
ligation (most recent ___ and recurrent soft tissue 
infections (h/o MRSA), who presented for outpatient EGD /colon 
on ___, referred to ED for LLE wounds concerning for 
cellulitis. Hospital course complicated by intermittent fevers 
while on broad spectrum antibiotics and acute kidney injury.

# Cellulitis
Tender erythematous, tender swelling up to ___ of left lower 
extremity, with slight leukocytosis (10.9). Skin on shins were 
covered with multiple excoriated lesions with broken skin. 
Likely due to venous insufficiency, poor wound healing (T2DM), 
and broken skin due to scratching and chronic itch. Patient was 
treated with vancomycin for 7 days with great improvement ___ 
- ___. Vancomycin was discontinued on ___ out of concern for 
drug-induced fever, and patient was transitioned to doxycycline 
on ___ to complete a 14 day course on ___.
Cellulitis improved while on antibiotics, with significant 
reductions in erythema, warmth, and tenderness. Initial 
leukocytosis resolved after day 1 of treatment and has remained 
normal.

# Hypoxia: Patient developed some shortness of breath and 
hypoxia on ___, requiring intermittent supplemental oxygen (1L) 
and nebulizer treatments, with patient complaining of chest 
tightness and dyspnea, particularly in the setting of receiving 
supplemental albumin. CXR was initially significant for lower 
right lobe consolidation vs. effusion, and pulmonary edema. He 
was given IV Lasix and briefly treated with vancomycin, 
ceftazidine, and flagyl, until repeat CXR showed resolution of 
the consolidation most consistent with pulmonary edema/effusion 
on ___. Patient was breathing comfortably on room air by ___. 

# Fever - Patient spiking intermittent fevers every day since 
___. Antibiotics were broaded vancomycin, ceftriaxone, and 
flagyl, with repeat CXR initially concerning for 
hospital-acquired PNA. However, persistent, intermittent fevers 
continued despite broad antibiotic coverage. Resolution of 
radiographic signs with diuresis made a fever due to PNA less 
likely. Out of concern for drug reaction causing fever (patient 
noted a reaction to vancomycin), all antibiotics were 
discontinued on ___ and doxycycline was started on ___. His 
fevers resolved and vancomycin was added to him adverse reaction 
list. 

# Right chest wall and RUQ pain: Most likely costocondritis, as 
very tender to palpation. No evidence of rib fractures on CT. No 
tachycardia or hypoxia to suggest PE. Treated with Tylenol, 
lidocaine patch. At time of discharge this pain had resolved. 

# ___: Patient presented with a Cr of 1.3 that has progressively 
trended up to 2.0 on ___. Patient had a likely prerenal iso of 
NPO for EGD/Colonoscopy, but ___ did not respond to fluid 
resuscitation with 25% albumin, nor did it improve with 
diruesis. Muddy brown fragements possibly seen on urine 
sediment. Low urine chloride suggesting dehydration. Nephrology 
consulted on ___ and did not have further recommendations since 
his creatinine had improved to 1.6 then 1.5 at time of 
discharge. His spironolactone was held in the setting ___ 
with potassium of 5.0. Recommend repeat labs in one week prior 
to resumption of his spironolactone. 

# Diarrhea. Has intermittent diarrhea at baseline has complained 
of this during hospital stay. C. diff negative. Stool O+P and 
cultures also negative. Possibly secondary to antibiotics and 
resolved by the time of discharge.

# Esophageal varices, s/p banding ___: patient was continued 
on his home pantoprazole and sucralfate. Propranolol was reduced 
to BID given low blood pressures initially and increased back to 
TID at time of discharge. He will continue his sucralfate until 
he completes a 2 week course on ___.

# HTN: patient's Enalapril 10mg BID was held on admission and 
discharge secondary to systolic BP 100-110. 

TRANSITIONAL ISSUES: 
=========================
 - New Meds: 
 * doxycycline 100mg PO BID for cellulitis, last dose on ___
 * Clobetasol Propionate 0.05% Cream BID (this is replacing 
triamcinolone) 

 - Stopped/Held Meds: 
 * Spironolactone 50mg daily was held in the setting ___ 
(discharge Cr 1.5 from baseline 1.3) and potassium 5.0 prior to 
discharge. Please resume if repeat labs are improved. 
 * Enalapril 10mg BID was held in the setting of hypotension / 
normotension with systolic blood pressure in the 100s-110s.
 * Oxycodone 5mg as needed, you did not need this medication 
while inpatient. You can continue to use it as needed at home.

 - Changed Meds: none

 - Post-Discharge Follow-up Labs Needed: 
 *Patient was given a prescription for repeat labs on ___ 
___

-consider outpatient sleep study: per patient, he often wakes up 
at night. does not know if he snores (wife sleeps in a separate 
bedroom). Denies headaches in AM. Reports that often falls 
asleep during the day, multiple times.

-f/u w/ PCP/GI/Cards re: furosemide prescriptions: ___ (home 
nurse, ___ needs clarification as to who should be 
prescribing him furosemide (has been getting it from his PCP). 

- f/u with PCP and dermatology for managing chronic itchiness / 
prurigo nodularis. Scratching seemed to be the primary cause of 
patient's cellulitis. He was discharged with Clobetasol cream. 
Can consider Carafate if etiology of itching seems to be 
secondary to elevated bilirubin. 

- f/u with PCP ___: diabetes control, patient discharged on home 
diabetic regimen.

- patient discharged with home ___ for complex medication 
management. 

#CODE: Full (confirmed)
#CONTACT: wife ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 5 mg PO QHS 
2. DiphenhydrAMINE 25 mg PO Q6H:PRN rash/itching 
3. LamoTRIgine 75 mg PO DAILY 
4. Lotrimin AF (miconazole nitrate) 2 % topical BID 
5. Pregabalin 50 mg PO BID 
6. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain - 
Severe 
7. Pantoprazole 40 mg PO Q24H 
8. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB/wheeze 
9. FLUoxetine 60 mg PO DAILY 
10. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
11. Vitamin D ___ UNIT PO MONTHLY 
12. Cetirizine 10 mg PO DAILY 
13. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
14. Enalapril Maleate 10 mg PO BID 
15. Ferrous Sulfate 325 mg PO DAILY 
16. Furosemide 40 mg PO DAILY 
17. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
18. Montelukast 10 mg PO DAILY 
19. Multivitamins 1 TAB PO DAILY 
20. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
21. oxybutynin chloride 15 mg oral DAILY 
22. Propranolol 10 mg PO TID 
23. Spironolactone 100 mg PO DAILY 
24. Triamcinolone Acetonide 0.1% Cream 1 Appl TP ASDIR 
25. HumuLIN R U-500 (Conc) Kwikpen (insulin regular hum U-500 
conc) 500 unit/mL (3 mL) subcutaneous BID 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
RX *clobetasol 0.05 % apply to rash (red spots) twice a day 
Refills:*0 
3.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*11 Tablet Refills:*0 
4.  Sucralfate 1 gm PO Q6H Duration: 14 Days 
RX *sucralfate 1 gram 1 tablet(s) by mouth every 6 hours Disp 
#*18 Tablet Refills:*0 
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze  
6.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB/wheeze  
7.  Cetirizine 10 mg PO DAILY  
8.  DiphenhydrAMINE 25 mg PO Q6H:PRN rash/itching  
9.  Donepezil 5 mg PO QHS  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  FLUoxetine 60 mg PO DAILY  
12.  Furosemide 40 mg PO DAILY  
13.  HumuLIN R U-500 (Conc) Kwikpen (insulin regular hum U-500 
conc) 500 unit/mL (3 mL) subcutaneous BID  
14.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
15.  LamoTRIgine 75 mg PO DAILY  
16.  Lotrimin AF (miconazole nitrate) 2 % topical BID  
17.  Montelukast 10 mg PO DAILY  
18.  Multivitamins 1 TAB PO DAILY  
19.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
20.  oxybutynin chloride 15 mg oral DAILY  
21.  Pantoprazole 40 mg PO Q24H  
22.  Pregabalin 50 mg PO BID  
23.  Propranolol 10 mg PO TID  
24.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
25.  Vitamin D ___ UNIT PO MONTHLY  
26. HELD- Enalapril Maleate 10 mg PO BID  This medication was 
held. Do not restart Enalapril Maleate until your blood pressure 
and labs are checked and you see your doctor
27. HELD- OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN 
Pain - Severe  This medication was held. Do not restart 
OxyCODONE--Acetaminophen (5mg-325mg) until your blood pressure 
improves
28. HELD- Spironolactone 50 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until you have repeat labs 
done and your liver doctor tells you to resume this medication
29.Outpatient Lab Work
DATE: ___
Diagnosis: Anemia (D64.9), ___ (N17.9)
LABS: Na, K, Cl, Bicarb, BUN, Cr, CBC
Please fax results to: Dr. ___ ___ AND Dr. ___ 
___   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Cellulitis

Secondary: 
Acute Kidney Injury on chronic kidney disease 
Alcoholic cirrhosis
Prurigo nodularis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___.  

WHY WERE YOU HERE?  
You were admitted to the hospital because you had an infection 
of the skin in your left leg and your kidney function was lower 
than normal. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL  
While you were in the hospital, we treated your skin infection 
with antibiotics. We also treated the rib pain you were 
experiencing. You continued to have fevers but they stopped when 
we stopped your antibiotic called vancomycin. 
You also developed some injury to your kidneys. We monitored 
your kidney function and it got better.
We evaluated the rash on your body, and diagnosed you with 
prurigo nodularis, a skin rash caused by constant scratching, 
usually in a person who frequently feels very itchy. 
 
WHAT SHOULD YOU DO WHEN YOU GET HOME?  
 1) Please follow up at your outpatient appointments.  
 2) Please take your medications as prescribed.  
 3) You need to have your labs checked in one week. 
 3) We are holding your spironolactone until you have your labs 
rechecked and your doctor says you can start taking it again. 
 4) You were also discharged with an antibiotic for your leg 
infection called doxycycline. You should take doxycycline 100mg 
twice a day (once in the morning and once at night) until 
___.

 We wish you the best!  
 Your ___ Care Team  
 
Followup Instructions:
___